US09227978B2
1-(Bromomethyl)-2-chloro-4-methoxy-5-nitrobenzene
To a solution of (2-chloro-4-methoxy-5-nitrophenyl)methanol (5.0 g, 23 mmol) in dichloromethane (50 mL) at 0° C., tribromophosphine (3.08 g, 11.5 mmol) was added in portions and the resulting mixture was stirred at RT for 2 h. The mixture was poured into ice-water and extracted with dichloromethane. The organic layer was washed with brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (petroleum ether/ethyl acetate=10:1) to afford the desired product (3.5 g, 54.2% yield).

reactant | (2-chloro-4-methoxy-5-nitrophenyl)methanol | 23 mmol, 5.0 g | ClC1=C(C=C(C(=C1)OC)[N+](=O)[O-])CO | C8H8ClNO4
reactant | tribromophosphine | 11.5 mmol, 3.08 g | BrP(Br)Br | Br3P
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 1-(Bromomethyl)-2-chloro-4-methoxy-5-nitrobenzene | 3.5 g, 54.2% yield | BrCC1=C(C=C(C(=C1)[N+](=O)[O-])OC)Cl | C8H7BrClNO3
